US08258130B2
A solution of 2-(2-pyridyl)-4-methyl-pyrimidine-5-carboxylic acid (559 mg, 2.6 mmol) and 1-amino-5-fluoro-1H-indole-3-carboxylic acid methyl ester (540 mg, 2.6 mmol) in DMF (25 mL) is stirred at 50° C. for 0.5 h. The mixture is treated with DMTMM (718 mg, 2.6 mmol) and stirred at 50° C. for 1 h. The mixture is diluted with saturated aqueous Na2CO3 (50 mL), and extracted with EtOAc (3×50 mL). The combined organic layer is dried (Na2SO4), filtered and concentrated in vacuo. The residue is purified by silica gel chromatography eluting with 1%-10% MeOH in DCM to afford 5-fluoro-1-[(4-methyl-2-pyridin-2-yl-pyrimidine-5-carbonyl)-amino]-1H-indole-3-carboxylic acid methyl ester.

reactant | 2-(2-pyridyl)-4-methyl-pyrimidine-5-carboxylic acid | 2.6 mmol, 559 mg | N1=C(C=CC=C1)C1=NC=C(C(=N1)C)C(=O)O | C11H9N3O2
reactant | 1-amino-5-fluoro-1H-indole-3-carboxylic acid methyl ester | 2.6 mmol, 540 mg | COC(=O)C1=CN(C2=CC=C(C=C12)F)N | C10H9FN2O2
reactant | DMTMM | 2.6 mmol, 718 mg | C[N+]1(CCOCC1)C2=NC(=NC(=N2)OC)OC.[Cl-]
solvent | DMF | 25 mL | CN(C)C=O | C3H7NO
solvent | Na2CO3 | 50 mL | C(=O)([O-])[O-].[Na+].[Na+]
product | 5-fluoro-1-[(4-methyl-2-pyridin-2-yl-pyrimidine-5-carbonyl)-amino]-1H-indole-3-carboxylic acid methyl ester | COC(=O)C1=CN(C2=CC=C(C=C12)F)NC(=O)C=1C(=NC(=NC1)C1=NC=CC=C1)C | C21H16FN5O3
